US09290496B2
Step 3: Preparation of (trans)-tert-butyl 3-azido-4-fluoropyrrolidine-1-carboxylate
To the solution of (trans)-tert-butyl 3-azido-4-hydroxypyrrolidine-1-carboxylate (120 g, 0.44 mol, 5/6 purity, containing DCM) in DCM (1.2 L) at −78° C. was added dropwise DAST (141 g, 0.88 mol) in DCM (200 mL). After addition, the mixture was stirred at −78° C. for 1 hr, then warmed to rt and stirred overnight. The reaction mixture was poured into sat. Na2CO3 (2 L) slowly then the DCM phase was washed with water (1 L), sat. NaCl and dried over Na2SO4. Concentrated and purified via flash chromatography (petroleum ether/EtOAc 20/1˜10/1) to give the title compound (48 g, 48% yield) as light yellow oil.

reactant | (trans)-tert-butyl 3-azido-4-hydroxypyrrolidine-1-carboxylate | 0.44 mol, 120 g | N(=[N+]=[N-])[C@@H]1CN(C[C@H]1O)C(=O)OC(C)(C)C | C9H16N4O3
reactant | DAST | 0.88 mol, 141 g | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | Na2CO3 | 2 L | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 1.2 L | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | (trans)-tert-butyl 3-azido-4-fluoropyrrolidine-1-carboxylate | 48 g, 48% yield | N(=[N+]=[N-])[C@@H]1CN(C[C@H]1F)C(=O)OC(C)(C)C | C9H15FN4O2
